US04933271
23.4 g of 7,9-diphenyl-1,4-dioxa-8-thiaspiro[4.5]-decane are dissolved in 50 ml of methylene chloride and the solution is cooled to -10°. A solution of 16.0 g of m-chloroperbenzoic acid in 200 ml of methylene chloride is added dropwise in the course of about 7 hours, it being ensured that the temperature does not exceed -5°. The reaction mixture is then stirred at 0° for 16 hours and filtered and the residue is washed with 100 ml of methylene chloride. The combined methylene chloride solutions are washed three times with 150 ml of water each time, dried over sodium sulfate and evaporated. The colourless residue is stirred with 100 ml of 2N sodium hydroxide solution for 1 hour, filtered off, washed neutral, dried and crystallized from toluene. 7,9-Diphenyl-1,4-dioxa-8-thiaspiro[4.5]-decane 8-oxide is obtained as colourless crystals of melting point 230°-32°.

reactant | 7,9-diphenyl-1,4-dioxa-8-thiaspiro[4.5]-decane | 23.4 g | C1(=CC=CC=C1)C1CC2(OCCO2)CC(S1)C1=CC=CC=C1 | C19H20O2S
reactant | m-chloroperbenzoic acid | 16.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 7,9-Diphenyl-1,4-dioxa-8-thiaspiro[4.5]-decane 8-oxide | C1(=CC=CC=C1)C1CC2(OCCO2)CC(S1=O)C1=CC=CC=C1 | C19H20O3S
